Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Toradol
 
Attending: ___.
 
Chief Complaint:
Tongue hematoma, broken shoulder - question seizure.

 
Major Surgical or Invasive Procedure:
Lumbar puncture - 2 WBC, normal protein and glucose. Cultures 
negative

 
History of Present Illness:
HPI: Mr. ___ is a ___ year old man with a history of 
concussion
x2 and melanoma in ___ who, after being awake for 36 hours and
taking 6 (50mg) tramadol tabs, woke from sleep with a tongue
hematoma, broken left shoulder, and post-ictal behavior, likely
representative of seizure.

Mr. ___ only recent medical events involved 3 weeks of left
shoulder pain radiating down to his left thumb and index finger.
He had an MRI (not here) for question of cervical radiculopathy
which was apparently positive though exact details are unknown
and he was started on gabapentin 300mg TID 1 week ago.

Mr. ___ has been having a significant amount of pain due to
rectal fissues from ___ and took six 50mg tabs of tramadol
within the day prior to evaluation. He denies any other 
substance
use, including alcohol (though opiates and methadone returned
positive in our ED). He had also been staying up progressively
later at night, so in an attempt to reset his circadian rhythm,
he stayed awake for about 32 hours straight prior to taking a 1
hour nap on the afternoon of ___. He was otherwise in his usual
state of health (no HA, phonophotobia, meningism, head trauma,
drug use). 

He took an hour long nap in his bed the early afternoon and when
he woke, he noticed that his tongue was swollen and painful. His
left shoulder was painful as well. He went downstairs in his
underwear (his mother lives with him and he never is in his
underwear around her) when she noted that he had urinated. There
was no obvious loss of stool (but that is a chronic problem 
given
his multiple surgeries for perirectal abscesses in the setting 
of
___. 

His tongue was not bleeding, but it became progressively more
swollen prompting him to present to ___ where they
gave Benadryl and steroids, which did not help. WBC was 22 and
lactate was 2.17. Prolactin was not drawn. His tongue was
becoming more swollen so they intubated him. His left shoulder
was found fractured and dislocated at OSH.

He was transferred here and extubated without incident. He has
been feeling well aside from his left shoulder pain and tongue
swelling. The ED thought he might have some hematoma under the
right side of his tongue. His neurologic exam was normal. His
lactate increased to 3. His WBC returned similarly elevated at
23.5. Tox screen was positive for opiates and methadone (the ED
is not aware that any were given at the OSH). He had a NCHCT
which was normal and a tongue CT which was normal. 

Of note, he has never had a seizure and there is no family
history of seizure. There is no history of CNS infection or
unusual amounts of stress. At time of interview, he denies
headache, neck stiffness, phonophotophobia, back pain, 
difficulty
with continence, difficulty understanding or producing speech,
difficulty with vision, diplopia, weakness, numbness, 
clumsiness,
fevers, chills, sweats, chest pain, dyspnea, cough, abdominal
pain, N/V, diarrhea, myalgias, rash, dysuria. 

His review of systems was positive only for shoulder pain and
tongue pain.

 
Past Medical History:
- Grade III Concussions: Lost consciousness in ___ and ___
after physical assault
- Melanoma: ___, has had many moles removed. Has not had a
whole-body skin check since ___
- ___: On Remicade. Rectal abscess in ___ with 
residual
pain for which he is taking Tramadol. He takes large doses (6
tabs) in a day with sometimes days between doses. 
- Transient atrial fibrillation
- Hypothyroidism: h/o hyperthyroid s/p resection
- Left leg fracture
- Left hand infection ___
- Childhood headaches (? migraine): none for years
- Major depressive disorder

 
Social History:
___
Family History:
No family history of seizure
- Mother with microscopic colitis
- Father deceased ___ MI while at hemodialysis
- Twin sister healthy
- No children
 
Physical Exam:
ADMISSION PHYSICAL EXAM

PHYSICAL EXAMINATION
97.9  110  132/90  99% NC
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, swollen tongue with
large right sided hematoma.
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: Left shoulder broken, no obvious deformation.
Palpation deferred. No C/C/E bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3 (save the date, which he
listed as the ___. Able to relate history well (recalling
progressively more of the events). Attentive, able to name ___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes spontaneously ___ prompted). He knows the name of the
president.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 3mm and brisk. VFF to confrontation. Fundoscopy
difficult due to glare. ___ ___ ___.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch and pin.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate appears to elevate symmetrically but it is not
possible to see the uvula given his swollen tongue.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift on the
right (deferred on the left).
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  x    x   x   ___  ___    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
x = deferred due to broken shoulder

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
No agraphesthesia. Romberg deferred. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  x    2    2   2
R  2  2    2    2   2
Left triceps deferred given arm positioning
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or toe-to-finger.

-Gait: Deferred - alone with patient, his arm broken. 

DISCHARGE EXAM:
Minimal ___ headache that is intermittent and non-positional.  
Pain-limited weakness of the left deltoid, biceps and triceps 
due to fracture.  Tongue hematoma with right greater than left 
swelling. No active bleeding and no fluctuant mass.

Remainder of neurological exam is normal
 
Pertinent Results:
___ 10:50AM CEREBROSPINAL FLUID (CSF)  PROTEIN-31 
GLUCOSE-102
___ 10:50AM CEREBROSPINAL FLUID (CSF)  WBC-0 RBC-1* POLYS-0 
___ ___ 10:50AM CEREBROSPINAL FLUID (CSF)  WBC-1 RBC-71* 
POLYS-35 ___ ___ 06:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG mthdone-POS
___ 06:30AM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 06:30AM URINE  RBC-3* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 06:30AM URINE  MUCOUS-OCC
___ 06:16AM   WBC-23.5*# RBC-4.97 HGB-15.8 HCT-47.1 MCV-95 
MCH-31.9 MCHC-33.6 RDW-12.3
___ 06:16AM   NEUTS-94.1* LYMPHS-3.8* MONOS-1.8* EOS-0.1 
BASOS-0.3
___ 06:16AM   PLT COUNT-242
___ 05:27AM   GLUCOSE-152* UREA N-12 CREAT-0.8 SODIUM-139 
POTASSIUM-4.9 CHLORIDE-105 TOTAL CO2-20* ANION GAP-19
___ 05:27AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

MRI BRAIN
IMPRESSION: 
  
No evidence of acute intracranial process, malformation of 
cortical 
development/structural abnormality, mass effect or abnormal 
enhancement. 

CSF CYTOLOGY negative for malignancy

EEG- no seizures

CT SHOULDER

IMPRESSION: 
1.  Comminuted fracture of the greater tuberosity with impaction 
of the 
largest fragment with a displaced fracture of the 
___ glenoid 
consistent with a bony bankart lesion.  The appearances are 
consistent with a prior anterior dislocation of the shoulder, 
the shoulder is now congruent. 
2.  Moderate-sized hemarthrosis. 

 
Brief Hospital Course:
Mr. ___ was admitted after an episode of convulsions 
concerning for  frsit-time generalized seizure.  During the 
seizure he sustained a tongue hematoma due to severe tongue 
bite, as well as a left shoulder fracture/dislocation.  At the 
outside hospital the shoulder was repositioned he was 
transferred to ___ for further evaluation oe seizures.

We did a comprehensive laboratory and diagnostic workup 
including lumbar puncture, MRI, and EEG that showed no clear 
provoking factor.   Factors that may have lowered his seizure 
threshhold include poor sleep (being awake for 36 hours), use of 
ultram (he had taken >6 50mg tabs at once) and history of Grade 
III concussions with loss of consciousness.  We advised that he 
refrain from alcohol or other illicit drugs and informed him to 
stop driving for a period of at least 6 months.  Because it is a 
first-time event we did not feel that AED initiation was needed 
at this time

His hospital course was complicated by a headache that developed 
within 24 hours after lumbar puncture.  This headache was 
positional an got worse within a few seconds when he sat up and 
went away when he laid flat. Initially we were concerned that 
this could be a complication of the lumbar puncture and we asked 
our Pain Consult team to evaluate for possible epidural blood 
patch.  Fortunately he improved with conservative management of 
IV fluids, caffiene and pain medications, and no further 
intervention was needed.  

With respect to his other injuries, we had orthopedics evaluate 
the left shoulder and the team felt no surgical intervention was 
necessary so he was placed in a simple arm sling.  We obtained 
repeat shoulder imaging on ___ that was stable.  For his tongue 
swelling, ENT recommended IV dexamethasone 10mg x 2 doses.  No 
intervention could be done.  We asked Speech & Swallow 
therapists to verify that swallow function was not compromised 
and our Nutritionists reviewed a puree/shake diet that may be 
necessary while he is at home recovering.

For pain we have added OXYCODONE 10mg every 4 hours by mouth.  
Please follow up with Dr. ___ in Neurology ___ as planned. 
Also we spoke with your Primary Care physician, ___, 
___ will help to manage your pain medications as an outpatient. 
Please also follow up with him as scheduled below.

Thank you for allowing us to participate in your care.

 
Medications on Admission:
- Remicade dose unknown
- Prozac 20mg daily (for past ___ months)
- Levoxyl 150mcg qd(no dose changes recently, last TSH 
reportedly
done recently by PCP and normal, though record unavailable 
here).
- Gabapentin 300mg TID
- lorazepam 0.5mg daily PRN:anxiety (takes this every day)
- tramadol 50mg BID PRN:pain (has NOT been taking this as
prescribed - will take up to 6 tabs in a day)

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Fluoxetine 20 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
4. Levothyroxine Sodium 150 mcg PO DAILY 
5. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN Pain 
RX *oxycodone 10 mg 1 tablet(s) by mouth every 4 hours Disp #*50 
Tablet Refills:*0
6. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice daily Disp 
#*60 Capsule Refills:*3
7. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*60 Capsule Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
generalized seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
EXAM:  General- Large right>L tongue hematoma with some 
mechanical dysarthria from tongue swelling
Neuro- Normal mental status, cranial nerves, sensation, 
coordination, gait.  He has Pain limited weakness of the left 
deltoid, biceps, triceps due to the shoulder fracture, but 
distal hand muscles are ___

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you during your 
hospitalization at ___.  You were 
admitted after you had an episode of convulsions while you were 
sleeping, which was concerning for seizure.  During that episode 
you bit your tongue severely and dislocated and fractured your 
left shoulder.  At the outside hospital your shoulder was 
repositioned and you were transferred to ___ for further 
evaluation of your seizure.

We did a comprehensive laboratory and diagnostic workup 
including lumbar puncture, MRI, and EEG that showed no clear 
explanation for your seizure.  We believe that poor sleep (being 
awake for 36 hours), use of ultram (which is a medicine that can 
make seizures more likely) and your history of concussions may 
have contributed to this seizure.  Because this is your first 
seizure you do not need to be on medications.   We advised you 
to refrain from alcohol or other illicit drugs and informed you 
that you should stop driving for a period of at least 6 months.

Your hospital course was complicated by a headache that 
developed within 24 hours after your lumbar puncture.  This 
headache got worse when you sat up and went away when you laid 
flat. Initially we were concerned that this could be a 
complication of the lumbar puncture and we asked our Pain 
Consult team to evaluate you in case there was an intervention 
that was needed.  Fortunately you improved with IV fluids and 
pain medications, and no further intervention was needed.  If 
you redevelop any headache that worsens when you sit or stand 
but goes away when you lay down, you will need to return to the 
ED for treatment. 

With respect to your other injuries, we had orthopedic surgery 
examine your shoulder and the team felt that it would heal on 
its own with a simple arm sling.  We obtained repeat shoulder 
imaging on ___ that was stable comminuted fracture with 
associated swelling.  For your tongue swelling, we gave you 2 
doses of IV steroids and asked the ENT consult team to evaluate 
you.  They determined that no intervention could be done and 
that your injury would improve with time.  We asked Speech & 
Swallow therapists to verify that your swallow function was not 
compromised and our Nutritionists spoke with you on a 
puree/shake diet that may be necessary while you are at home 
recovering.

For pain we have added OXYCODONE 10mg every 4 hours by mouth.  
We will give you enough medication to get you to your ___ appointment with Dr. ___.  Please follow up with Dr. 
___ in Neurology ___ as planned. We spoke Dr. ___, 
___ will help to manage your pain medications as an outpatient. 

Thank you for allowing us to participate in your care.

 
Followup Instructions:
___